US09079985B2
5-tert-Butyl-2-isobutyl-6-methoxy-7-phenyl-1H-indene
To a solution of 9.0 g (25.7 mmol) of 6-tert-butyl-2-isobutyl-5-methoxy-4-phenylindan-1-one in 100 ml of THF and 50 ml of methanol 10.0 g (0.265 mol) of NaBH4 was added by small portions by vigorous stirring for ca. 1.5 h at room temperature. This mixture was additionally stirred overnight and then acidified by 2 M HCl to pH 1. The product was extracted with 3×150 ml of dichloromethane. The organic extract was evaporated to dryness, and a mixture of the residue with 150 ml of toluene and 0.5 g of TsOH was refluxed for 15 min using Dean-Stark head. The obtained solution was washed by 10% aqueous K2CO3. The organic layer was separated, and the aqueous layer was extracted with 2×50 ml of dichloromethane. The combined organic extract was dried over K2CO3, evaporated to dryness, and then passed through short layer of silica gel 60 (40-63 um). The silica gel layer was additionally washed by hexanes-dichloromethane (1:1, vol.). The elute was evaporated to dryness, and the residue was dried in vacuum. This procedure gave 8.52 g (99%) of yellowish oil of the title product which was further used without an additional purification.

reactant | 6-tert-butyl-2-isobutyl-5-methoxy-4-phenylindan-1-one | 25.7 mmol, 9.0 g | C(C)(C)(C)C1=C(C(=C2CC(C(C2=C1)=O)CC(C)C)C1=CC=CC=C1)OC | C24H30O2
reactant | methanol | 0.265 mol, 50 ml, 10.0 g | CO | CH4O
reactant | NaBH4 | [BH4-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-tert-Butyl-2-isobutyl-6-methoxy-7-phenyl-1H-indene | 8.52 g, 99% | C(C)(C)(C)C=1C=C2C=C(CC2=C(C1OC)C1=CC=CC=C1)CC(C)C | C24H30O
